US04399140
5-Bromo-1-(2-thienylmethyl)pyrimidin-2-one
5-Bromopyrimidin-2-one (10 mmol), 2-hydroxymethylthiophene (36 mmol) and N,N-dimethylformamide dineopentyl acetal (15 mmol) in DMF (40 ml) were heated together at 80° C. for 150 min. The coloured solution was evaporated to dryness at reduced pressure (1 mmHg), the residual viscous material triturated with pet, ether (2×25 ml) and with ether (50 ml) when it solidified. This material was dissolved in chloroform and chromatographed on alumina (20 g, activity III). The title compound was eluted with chloroform; yield 48%, m.p. 188°-190° C. (EtOAc). 1H NMR (TFA) δ 5.68 (CH2); 7.18, 7.41, 7.58 (H3', H4', H5'), 8.95 (H4, H6).

reactant | 5-Bromopyrimidin-2-one | 10 mmol | BrC=1C=NC(NC1)=O | C4H3BrN2O
reactant | 2-hydroxymethylthiophene | 36 mmol | OCC=1SC=CC1 | C5H6OS
reactant | N,N-dimethylformamide dineopentyl acetal | 15 mmol | C(C(C)(C)C)OC(N(C)C)OCC(C)(C)C | C13H29NO2
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 5-Bromo-1-(2-thienylmethyl)pyrimidin-2-one | yield 48% | BrC=1C=NC(N(C1)CC=1SC=CC1)=O | C9H7BrN2OS
